US06005116
(a) 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-butyl-5-phenylisoxazole
3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-phenylisoxazole (0.3 g) and butyl iodide (0.17 ml) were subjected to reaction and post-treatment in a similar manner to that described in Example 14(a) to obtain the title compound (0.23 g, 66%) as a colorless oil.

reactant | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-phenylisoxazole | 0.3 g | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1)C1=CC=CC=C1 | C16H20N2O4
reactant | butyl iodide | 0.17 ml | C(CCC)I | C4H9I
product | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-butyl-5-phenylisoxazole | 0.23 g, 66% | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1CCCC)C1=CC=CC=C1 | C20H28N2O4
